US06169107A
The reaction was carried out in a manner similar to Example 1 except for using 0.42 g (1.21 mmol) of ethyl 1-methyl-7-(3-phenylpropionamido)-2-indolecarboxylate, 2.31 g (24.2 mmols) of guanidine hydrochloride and a solution of 1.31 g (24.2 mmols) of sodium methoxide in 30 ml of methanol. 1-Methyl-7-(3-phenylpropionamido)-2-indoloylguanidine hydrochloride was obtained in an amount of 0.16 g (34.9%).

reactant | ethyl 1-methyl-7-(3-phenylpropionamido)-2-indolecarboxylate | 1.21 mmol, 0.42 g | CN1C(=CC2=CC=CC(=C12)NC(CCC1=CC=CC=C1)=O)C(=O)OCC | C21H22N2O3
reactant | guanidine hydrochloride | 24.2 mmols, 2.31 g | Cl.NC(=N)N
reactant | sodium methoxide | 24.2 mmols, 1.31 g | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 1-Methyl-7-(3-phenylpropionamido)-2-indoloylguanidine hydrochloride | Cl.CNC(=NC(=O)C=1NC2=C(C=CC=C2C1)NC(CCC1=CC=CC=C1)=O)N | InChI=1S/C20H21N5O2.ClH/c1-22-20(21)25-19(27)16-12-14-8-5-9-15(18(14)24-16)23-17(26)11-10-13-6-3-2-4-7-13;/h2-9,12,24H,10-11H2,1H3,(H,23,26)(H3,21,22,25,27);1H
